US07294636B2
To a solution of 1-benzylpiperidin-4-amine (10 g) in dichloromethane (80 ml), cooled to 5° C., was added pyridine (5.1 ml) followed by acetyl chloride (4.5 ml) and the resulting mixture was stirred for 5 hours. The reaction mixture was washed with 1N NaOH (×2) and then the organic layers were dried and evaporated to dryness to give a solid which was recrystallised from ethyl acetate to give N-(1-benzylpiperidin-4-yl)acetamide. Yield 8.8 g. NMR (d6 DMSO): 1.4 (m, 2H), 1.7 (m, 2H), 1.8 (s, 3H), 2.0 (m, 2H), 2.75 (m, 2H), 3.45 (s, 2H), 3.55 (m, 1H), 7.3 (m, 5H), 7.75 (d, 1H).

reactant | 1-benzylpiperidin-4-amine | 10 g | C(C1=CC=CC=C1)N1CCC(CC1)N | C12H18N2
reactant | pyridine | 5.1 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 4.5 ml | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | N-(1-benzylpiperidin-4-yl)acetamide | C(C1=CC=CC=C1)N1CCC(CC1)NC(C)=O | C14H20N2O
